US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-methylphenyl)isoxazole
3-Hydroxy-5-(4-methylphenyl)isoxazole (1.5 g) and 2-(N-tert-butoxycarbonylamino)ethanol (1.5 g) were subjected to reaction and post-treatment in a similar manner to that described in Example 9(a) to obtain the title compound (2.2 g, 82%) as a colorless powder.

reactant | 3-Hydroxy-5-(4-methylphenyl)isoxazole | 1.5 g | OC1=NOC(=C1)C1=CC=C(C=C1)C | C10H9NO2
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 1.5 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-methylphenyl)isoxazole | 2.2 g, 82% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=CC=C(C=C1)C | C17H22N2O4
